US07084160B2
To a solution of 2,4-difluoro-5-aminobenzoic acid (1.73 g, 10.0 mmol) in DMF (40 mL) were successively added EDCI (1.62 g, 12.0 mmol), HOBt (2.30 g, 12.0 mmol) and methylamine (6.0 mL, 12.0 mmol, 2 M in MeOH) in that order at RT. After stirring for 2 h, the reaction mixture was diluted with ethyl acetate (100 mL) and washed with water (100 mL). The aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layer was washed with NaHCO3 (3×50 mL) followed by 10% LiCl (50 mL). The organic layer was dried, filtered and concentrated to afford 5-amino-2,4-difluoro-N-methylbenzamide (0.76 g, 41%) as a light brownish solid. MS (M+H)+=187. It was used without further purification (>92% pure by HPLC).

reactant | 2,4-difluoro-5-aminobenzoic acid | 10.0 mmol, 1.73 g | FC1=C(C(=O)O)C=C(C(=C1)F)N | C7H5F2NO2
reactant | EDCI | 12.0 mmol, 1.62 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 12.0 mmol, 2.30 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | methylamine | 12.0 mmol, 2 M, 6.0 mL | CN | CH5N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 5-amino-2,4-difluoro-N-methylbenzamide | 0.76 g, 41% | NC=1C(=CC(=C(C(=O)NC)C1)F)F | C8H8F2N2O
